US08349898B2
Preparation of N,N-dimethyl-2-phenylethylamine (2):
To a stirring solution of phenylacetaldehyde (5 mM, 0.6 mL) and dimethylamine (5 mM, 3 mL of 2M in MeOH) in MeOH (1 mL), was added NaCNBH3 (5 mM, 360 mg) in a round-bottomed flask. The reaction mixture was stirred at room temperature overnight. The solvent was evaporated and H2O was added to the residue before extraction with CH2Cl2. The combined extracts were dried over MgSO4, the solid was filtered off, and the solvent was evaporated under reduced pressure to give a yellow oil. The crude products were purified by column chromatography (silica gel, EtAc:n-hexane, 4:6) to afford pure product in quantitative yield, 0.52 g, 87%, yellow oil. TLC (EtAc:n-hex, 4:6 v/v): RF=0.2. 1H NMR, δ: 7.40-7.20 (m, 5H), 3.20 (m, 4H), 2.20 (S, 6H). 13C NMR, δ: 141.5, 129.1, 128.6, 125.8, 60.9, 45.6, 32.2. Anal. calcd for C10H13N: C, 80.48; H, 10.13; N, 9.39%. Found; C, 90.60; H, 10.20; N, 9.40%.

reactant | phenylacetaldehyde | 5 mM, 0.6 mL | C1(=CC=CC=C1)CC=O | C8H8O
reactant | dimethylamine | 5 mM, 3 mL | CNC | C2H7N
reactant | NaCNBH3 | 5 mM, 360 mg | [BH3-]C#N.[Na+]
solvent | MeOH | 1 mL | CO | CH4O
product | N,N-dimethyl-2-phenylethylamine | quantitative yield | CN(C)CCC1=CC=CC=C1 | C10H15N
